US07223788B2
4-[4-(3-Dimethylaminopyrrolidin-1-yl)phenylcarbamoyl]phenyl Acetate
4-Acetoxybenzoic acid was reacted with [1-(4-aminophenyl)pyrrolidin-3-yl]dimethylamine by method E-b. This resulted in the product with the molecular weight of 367.19 (C21H25N3O3); MS (ESI): 368 (M+H+) as hydrotrifluoroacetate.

reactant | 4-Acetoxybenzoic acid | C(C)(=O)OC1=CC=C(C(=O)O)C=C1 | C9H8O4
reactant | [1-(4-aminophenyl)pyrrolidin-3-yl]dimethylamine | NC1=CC=C(C=C1)N1CC(CC1)N(C)C | C12H19N3
product | 4-[4-(3-Dimethylaminopyrrolidin-1-yl)phenylcarbamoyl]phenyl Acetate | C(C)(=O)OC1=CC=C(C=C1)C(NC1=CC=C(C=C1)N1CC(CC1)N(C)C)=O | C21H25N3O3
